US08008279B2
2,3,4,5-Tetrahydro-1H-pyrido[4,3-b]indole hydrochloride (3.64 g, 17.4 mmol) was suspended in dichloromethane (120 mL) and stirred at room temperature under argon. Triethylamine (7.29 mL, 52.3 mmol) was added followed by di-tert-butyl dicarbonate (3.81 g, 17.4 mmol) in DCM (30 mL) and the resulting solution stirred overnight with the argon source removed. DCM was removed in vacuo and the residue partitioned between brine (50 mL) and ethyl acetate (2×100 mL). Combined organics were dried (sodium sulphate) and concentrated in vacuo to give N-boc-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole as a pale yellow solid (4.23 g, 89%).

reactant | 2,3,4,5-Tetrahydro-1H-pyrido[4,3-b]indole hydrochloride | 17.4 mmol, 3.64 g | Cl.C1NCCC=2NC=3C=CC=CC3C21
reactant | Triethylamine | 52.3 mmol, 7.29 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 17.4 mmol, 3.81 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | N-boc-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 4.23 g, 89% | C(=O)(OC(C)(C)C)N1CC2=C(NC=3C=CC=CC23)CC1 | C16H20N2O2
